Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16],88.65123150293431
[O-:1][C:7](=[C+:2][C:3]([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:8])[H:9])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],15.178691012222913
[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8]>>[C:1]([N+:2]([C-:3]([H:9])[H:11])([C:4](=[O:5])[H:12])[H:10])([H:6])([H:7])[H:8],89.7530367008995
[N:3]1([H:8])[C:4]([H:9])([H:10])[C@:5]1([C:7](=[O:6])[H:12])[H:11].[O+:1]#[C-:2]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],51.4271009133373
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:5]([H:14])([H:15])[O:6]1)([H:7])([H:8])[H:9].[C:3]([H:11])[H:12].[O:4]([H:13])[H:16],114.6100085935
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],75.06958413704109
[C:1](=[C:2]([C:3](=[O:4])[H:12])[H:11])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:13].[H:8][H:14]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],43.133381407573395
[C:1]([C:2]1[C:3]([H:12])([H:13])[O:4][C:5]([H:11])([H:14])[O:7]1)([H:8])([H:9])[H:10].[C:6]([H:15])([H:16])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],39.15437457100751
[O:1]=[C:6]([C:2]12[C:3]([H:7])([H:8])[N:4]1[C:5]2([H:9])[H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],50.674797761048794
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]([H:15])[C@@:5]1([N:4]([C:3][H:11])[H:12])[N:6]([H:13])[H:14])([H:8])([H:9])[H:10],127.774154968589
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]1([O:5][H:14])[C:6]([C:7][H:17])([H:15])[H:16])([H:8])([H:9])[H:10],74.38234300506271
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]/[C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[H:12][H:16],90.56888492695141
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:8][H:12].[O:1](/[C:2](=[C:3](/[N:4]=[C:5](\[O:6][H:10])[H:13])[H:11])[H:9])[H:7],74.4125090493265
[O-:1][N:4]1[C:3](=[C+:2][H:8])[O:7][N:6]=[C:5]1[H:9]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],23.357984403936996
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5](=[O:6])[H:15])([H:7])([H:8])[H:9].[H:14][H:16],76.94137596886371
[C:1]([C:2]([N:3]=[C:4]=[C:5]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[C:7][H:15]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],65.00314505022868
[N:4]#[N:5].[O:1]=[C:2]=[N:3][H:6]>>[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6],80.3427372151318
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[H:14])([H:6])([H:7])[H:8].[C:4]([O:5][H:15])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],8.558797199517791
[C:1]([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:7])([H:8])[H:9].[C:2](=[O:3])([H:10])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],64.1159108683143
[N:1]([C:2]1=[C:5]=[N:6][C:4]([H:11])([H:12])[C:3]1([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],20.792435940857416
[C:1]([C:2]([O:3][C:4]1=[C+:6][N:7]([H:13])[N-:5]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],26.369528555020082
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[C:4](=[N:5][H:10])([H:8])[H:9].[O:1]([C:6]([C:3]#[N:2])([H:11])[H:12])[H:7],71.3149063998279
[C:1]([C:3]([C:2]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])=[O:4])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],88.0759677267402
[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[O:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],74.3532291282589
[N:1]#[C:2]/[C:7](=[C:6](\[O:5][H:8])[H:9])[H:10].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],30.136736838850567
